US05952283
To an initial charge of 81.0 g of 2-pyrrolidone in 200 ml of toluene there are added, dropwise and with ice cooling, 54.7 g of chloroacetyl chloride such that the temperature of the reaction mixture remains at 5° C. Following the addition the reaction mixture is stirred at room temperature for 6 hours. The resulting precipitate is filtered off with suction and the solvent is removed in vacuo to give 74.5 g of N-(chloroacetyl)pyrrolidone, corresponding to a yield of 97%.

reactant | 2-pyrrolidone | 81.0 g | N1C(CCC1)=O | C4H7NO
reactant | chloroacetyl chloride | 54.7 g | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(chloroacetyl)pyrrolidone | 74.5 g, yield of 97% | ClCC(=O)N1C(CCC1)=O | C6H8ClNO2
